US05436369
For (Z)-2-Phenyl-5-[3-(1-adamantyl)-4-methoxyphenyl]-2-pentenol (2.5:1, Z:E) (5×): obtained in three steps from (Z)-1-(t-butyldimethylsiloxy)-2-phenyl-5-[3-(1-adamantyl)-4-t-butyldimethylsiloxyphenyl]-2-pentene, a by-product in the synthesis of 7j. The bis-silyl ether (0.700 g, 1.14 mmol) was dissolved in 30 mL of 3:1:1 acetic acid/THF/H2O, and stirred for 48 h. The solvent was removed in vacuo. A solution of the residue, 2-phenyl-5-[3-(1-adamantyl)-4-t-butyldimethylsiloxyphenyl]-2-pentenol (2.5:1, Z:E), in THF (10 mL) was treated with a 1.1M solution of tetrabutylammonium fluoride in THF (1.44 mL, 1.59 mmol). This mixture was stirred for 30 min at rt and then quenched by the addition of saturated ammonium chloride solution (10 mL). This solution was partitioned between ether and water. The organic phase was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated to give 2-phenyl-5-[ 3-(1-adamantyl)-4-hydroxyphenyl]-2-pentenol (2.5:1, Z:E): 1H NMR (300 MHz, CDCl3) a (Z-isomer) 7.25-7.34 (m, 3H, 2-ArH), 7.09-7.12 (m, 2H, 2-ArH), 6.91 (d, J=2 Hz, 1H, 5-ArH), 6.75 (dd, J=8,2 Hz, 1H, 5-ArH), 6.49 (d, J=8 Hz, 1H, 5-ArH), 5.75 (t, J=7 Hz, 1H, C=CH), 4.30 (m, 2H, CH2OH), 2.58 (t, J=7 Hz, 2H, ArCH2), 2.28 (q, J=7 Hz, 2H, ArCH2CH2), 2.08 (s, 9H, adamantyl), and 1.73 (s, 6H, adamantyl); (E-isomer, partially obscured) 7.40 (m, 1H, 2-ArH) 6.97 (d, J=2 Hz, 1H, 5-ArH), 6.86 (dd, J= 2, 8 Hz, 1H, 5-ArH), 6.51 (d, J=8 Hz, 1 H, 5-ArH), 5.91 (t, J=8 Hz, 1H, C=CH), and 2.71 (t, J=8 Hz, 2H, ArCH2); IR (KBr) 3520 (OH), 3345 (OH), 2900, 2850, 1240, and 700 cm-1 ; MS (DCI) m/e 389 (MH+), 388 (M+), 371,241, 135 (C10H15+); Anal. Calcd for C27H32O2.0.3 CH3CO2CH2CH3 : C, 81.62; H, 8.36. Found: C, 81.62; H, 8.32. 2-Phenyl-5-[3-(1-adamantyl)-4-hydroxyphenyl]-2-pentenol (2.5:1, Z:E, 0.600 g, 1.55 mmol) was treated with dimethylsulfate (0.195 g, 1.55 mmol) and powdered potassium carbonate (0.214 g, 1.55 mmol) in refluxing acetone for 18 h. The cooled reaction mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution with methylene chloride followed by 5% methanol/methylene chloride) to give 385 mg (84% overall yield) of 5×as a 3:1 mixture of Z:E isomers. 1H NMR (300 MHz, CDCl3) δ(Z-isomer) 7.37-7.22 (m, 3H, 2-ArH), 7.12 (m, 2H, 2-ArH), 6.95 (d, J=2 Hz, 1H, 5-ArH), 6.88 (dd, J=8, 2 Hz, 1H, 5-ArH), 6.77 (d, J=8 Hz, 1H, 5-ArH), 5.78 (t, J=7 Hz, 1H, C=CH), 4.31 (m, 2H, CH2OH), 3.79 (s, 3H, OCH3), 2.58 (t, J=7 Hz, 2H, ArCH2), 2.32 (q, J=7 Hz, 2H, ArCH2CH2), 2.02 (s, 9H, adamantyl), and 1.76 (s, 6H, adamantyl); (E-isomer, partially obscured) 7.41 (m, 1H, 2-ArH), 5.92 (t, J=8 Hz, 1H, C=CH), and 2.73 (t, J=8 Hz, 2H, ArCH2).

reactant | bis-silyl ether | 1.14 mmol, 0.700 g | [SiH3]O[SiH3] | H6OSi2
reactant | 2-phenyl-5-[3-(1-adamantyl)-4-t-butyldimethylsiloxyphenyl]-2-pentenol | C1(=CC=CC=C1)C(CO)=CCCC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C12CC3CC(CC(C1)C3)C2 | C33H46O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid THF H2O | 30 mL | C(C)(=O)O.C1CCOC1.O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.59 mmol, 1.44 mL | C1CCOC1 | C4H8O
product | 2-phenyl-5-[ 3-(1-adamantyl)-4-hydroxyphenyl]-2-pentenol | C1(=CC=CC=C1)C(CO)=CCCC1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2 | C27H32O2
